US07812043B2
1-(2-Cyano-ethyl)-indole-3-carboxylic acid thiazol-2-ylamide
The title compound was prepared using 1H-indole-3-carboxylic acid thiazol-2-ylamide and 3-bromo propionitrile as R5X.

reactant | 1H-indole-3-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)C1=CNC2=CC=CC=C12 | C12H9N3OS
reactant | 3-bromo propionitrile | BrCCC#N | C3H4BrN
product | 1-(2-Cyano-ethyl)-indole-3-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)C1=CN(C2=CC=CC=C12)CCC#N | C15H12N4OS
